US04675324
Chloroform (50 ml) was added to a mixture of 3-dimethylaminomethylene-6-nitro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (3.03 g), hydrazine hydrate (0.6 g), and acetic acid (0.78 g) in methanol (50 ml) and stirred at room temperature for 8 hours. To the mixture was added acetic acid (2 ml) and evaporated in vacuo. The residual solid was washed with water, dried, and recrystallized from a mixture of chloroform and methanol to give 4,5-dihydro-8-nitro-5-propionyl-1H-pyrazolo[4,3-c]quinoline (2.53 g).

reactant | Chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 3-dimethylaminomethylene-6-nitro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 3.03 g | CN(C)C=C1CN(C2=CC=C(C=C2C1=O)[N+](=O)[O-])C(CC)=O | C15H17N3O4
reactant | hydrazine hydrate | 0.6 g | O.NN
reactant | acetic acid | 0.78 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 4,5-dihydro-8-nitro-5-propionyl-1H-pyrazolo[4,3-c]quinoline | 2.53 g | [N+](=O)([O-])C1=CC=2C3=C(CN(C2C=C1)C(CC)=O)C=NN3 | C13H12N4O3
